* source NISIPEANU_ALEXANDRU_P1_N15
X_P3         N251224 N251224 POT PARAMS: SET=0.05 VALUE=10k
C_C4         0 N251882  470n  TC=0,0 
X_P2         0 0 POT PARAMS: SET=0.05 VALUE=10k
Q_Q4         N251024 N251092 N250992 QBC856B 
Q_Q8         N251120 N251636 N251928 BC817-25 
X_P1         N251882 N252066 POT PARAMS: SET=0.13 VALUE=500k
C_C5         IN+ N251224  2.2n  TC=0,0 
Q_Q9         VCC VCC N250958 BC817-25 
R_R22         N251384 0  15k TC=0,0 
Q_Q7         N251120 N251024 N250958 BC807-25 
C_C1         N251120 N251024  470p  TC=0,0 
R_R32         VCC N250834  820 TC=0,0 
R_R8         VSS N251928  22 TC=0,0 
R_R5         N251636 0  5.6k TC=0,0 
J_T7         N251708 N252066 0 JMMBFJ309LT1 
R_R7         N251350 N251708  10k TC=0,0 
X_D8         0 N250834 LED PARAMS: IS=3.7602e-029 RS=25  BV=5 IBV=5e-6         
X_R26         0 N251384 POT PARAMS: SET=0.45 VALUE=10K
Q_Q5         N251636 N251636 N251922 QBC846B 
R_R9         N251120 N251592  5.6k TC=0,0 
R_R1         N250986 VCC  100 TC=0,0 
R_R6         N251120 N251350  22k TC=0,0 
R_R4         VSS N2518321  51 TC=0,0 
X_D9         N252112 0 LED PARAMS: IS=3.7602e-029 RS=25  BV=5 IBV=5e-6         
R_R35         VSS N252112  820 TC=0,0 
R_R3         VSS N251922  51 TC=0,0 
Q_Q2         N251092 N251350 N251422 QBC817-25 
Q_Q3         N251092 N251092 N250986 QBC856B 
X_D3         N251882 N251592 awb1n4148 PARAMS:                
Q_Q1         N251024 IN+ N251422 QBC817-25 
R_R2         N250992 VCC  100 TC=0,0 
Q_Q6         N251422 N251636 N2518321 QBC846B 
C_C2         0 IN+  2.2n  TC=0,0 
V_V1         VCC 0 11
V_V2         0 VSS 11
